US06613743B2
2-(sec-butoxy)-1H-isoindole-1,3(2H)-dione.
N-hydroxylphthalimide (18.4 mmol, 3.0 g) was dissolved in anhydrous DMF (20 mL) under nitrogen. To the stirring solution, DBU (1,8-diazabicyclo[5.4.0]undec-7-ene) (27.6 mmol, 4.13 mL) was injected followed by 2-bromobutane (22.1 mmol, 2.41 mL) and the reaction was warmed to 55° C. After stirring for 18 hour, the reaction was cooled to room temperature and concentrated to a red oil. The reaction was partitioned between ethyl acetate and 1N HCl. The organic layer was washed with saturated aqueous sodium bicarbonate solution, distilled water, brine and dried over magnesium sulfate. The solvent was removed under vacuum providing 3.57 g (89%) of a yellow solid. Rf: 0.8 (2:1 hexanes/ethyl acetate); H1-NMR (CDCl3): δ7.80 (2H,m), 7.73 (2H,m), 4.31 (1H,m), 1.81 (1H,m), 1.64 (1H,m), 1.32 (3H,d), 1.03 (3H,t).

reactant | N-hydroxylphthalimide | 18.4 mmol, 3.0 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | DBU | 27.6 mmol, 4.13 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2-bromobutane | 22.1 mmol, 2.41 mL | BrC(C)CC | C4H9Br
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(sec-butoxy)-1H-isoindole-1,3(2H)-dione | 3.57 g, 89% | C(C)(CC)ON1C(C2=CC=CC=C2C1=O)=O | C12H13NO3
